US07700655B2
(4) N3-[3,5-bis(trifluoromethyl)phenyl]-4-hydroxy-N1,N1-dimethylisophthalamide (Compound No. 83)
A solution of 4-benzyloxy-N3-[3,5-bis(trifluoromethyl)phenyl]-N1,N1-dimethyl-isophthalamide (141 mg, 0.28 mmol) and 5% Pd—C (14 mg) in a mixed solvent of ethanol (5 ml) and ethyl acetate (5 ml) was stirred at room temperature for 1 hour under hydrogen atmosphere. The reaction mixture was filtered and the filtrate was evaporated under reduced pressure to give the title compound (106 mg, 91.2%) as a white solid.

reactant | 4-benzyloxy-N3-[3,5-bis(trifluoromethyl)phenyl]-N1,N1-dimethyl-isophthalamide | 0.28 mmol, 141 mg | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)N(C)C)C=C1)C(=O)NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C25H20F6N2O3
reactant | ethanol | 5 ml | C(C)O | C2H6O
catalyst | Pd—C | 14 mg | [Pd] | Pd
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | N3-[3,5-bis(trifluoromethyl)phenyl]-4-hydroxy-N1,N1-dimethylisophthalamide | 106 mg, 91.2% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(C=1C=C(C(=O)N(C)C)C=CC1O)=O)(F)F | C18H14F6N2O3
